US07994185B2
A solution of tetrahydro-2H-pyran-4-carboxamide (9.47 g, 73.3 mmol) and Lawesson's reagent (14.83 g, 36.7 mmol) in THF (98 mL) was heated to reflux for 6 h. The reaction was cooled to rt, poured into saturated aqueous NaHCO3 (200 mL) and extracted with diethyl ether (4×100 mL). The combined organic extracts were dried over Na2SO4, filtered, and concentrated. The residual solid was triturated with 1:1 EtOAc:hexanes (100 mL) and filtered to collect the solid. The filtrate was concentrated and re-subjected to trituration and filtration using the same conditions. The combined solids were dried under vacuum to afford tetrahydro-2H-pyran-4-carbothioamide (4.91 g, 32.1 mmol, 43.8% yield) as a white solid. 1H NMR (400 MHz, CDCl3) δ ppm 7.49 (br. s., 1H), 6.84 (br. s., 1H), 3.94-4.32 (m, 2H), 3.31-3.62 (m, 2H), 2.52-3.03 (m, 1H), 1.81-1.93 (m, 4H).

reactant | tetrahydro-2H-pyran-4-carboxamide | 73.3 mmol, 9.47 g | O1CCC(CC1)C(=O)N | C6H11NO2
reactant | Lawesson's reagent | 36.7 mmol, 14.83 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | NaHCO3 | 200 mL | C(=O)(O)[O-].[Na+]
solvent | THF | 98 mL | C1CCOC1 | C4H8O
product | tetrahydro-2H-pyran-4-carbothioamide | 32.1 mmol, 4.91 g, 43.8% yield | O1CCC(CC1)C(N)=S | C6H11NOS
